US07932247B2
Phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate
To a solution of 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid (108 mg, 0.34 mmol) in dry DMF (2 mL) was added phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (150 mg, 0.334 mmol), DIPEA (0.1 mL, 0.7 mmol), HATU (142 mg, 0.37 mmol) and HOBt (150 mg, 1.1 mmol). The reaction mixture was stirred at room temperature for 2 h, followed by addition of saturated aq. Na2CO3 (1 mL) and EtOAc (5 mL). The organic layer was separated, dried over Na2SO4, and filtered. The filtrate was concentrated and the residue was purified on a 5 g amminopropyl SPE cartridge, eluting with DCM (3×5 mL), EtOAc (3×5 mL), and MeOH (3×5 mL). The product was recovered after evaporation of the DCM fractions (130 mg, 80%). LC/MS: m/z, 749 (M+H), 2.32 min.

reactant | 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid | 0.34 mmol, 108 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C(=O)O)C=CC1 | C18H25NO4
reactant | phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.334 mmol, 150 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C27H30FN3O2
reactant | DIPEA | 0.7 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.37 mmol, 142 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 1.1 mmol, 150 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | Phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C45H53FN4O5
